US06492370B1
(2S)-N-[2-(Dimethylamino)ethyl]-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-(4-nitrophenyl)propionamide (Compound No. 19-1)
A solution of 2-(dimethylamino)ethylamine (362 mg) in tetrahydrofuran (3 ml) is added to a solution of phenyl (2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-(4-nitrophenyl)propionate (Compound No. 1-35, 392 mg) in tetrahydrofuran (5 ml) under ice cooling, and the mixture is stirred at room temperature for 1.5 hours. The reaction mixture is concentrated under reduced pressure, water is added to the concentrate, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over andhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 314 mg (81%) of the titled compound (Compound No. 19-1).

reactant | 2-(dimethylamino)ethylamine | 362 mg | CN(CCN)C | C4H12N2
reactant | phenyl (2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-(4-nitrophenyl)propionate | OCCN(C(N[C@H](C(=O)OC1=CC=CC=C1)CC1=CC=C(C=C1)[N+](=O)[O-])=O)CCC1=CC=CC=C1 | C26H27N3O6
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2S)-N-[2-(Dimethylamino)ethyl]-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-(4-nitrophenyl)propionamide | 314 mg, 81% | CN(CCNC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)N(CCC1=CC=CC=C1)CCO)=O)C | C24H33N5O5
